US09029545B2
3-Chloro-N-{6-methyl-3-[3-(methyloxy)phenyl]-2-[3-(4-morpholinyl)-1-propyn-1-yl]thieno[2,3-b]pyridin-4-yl}benzenesulfonamide
A mixture of 3-{4-{[(3-chlorophenyl)sulfonyl]amino}-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-2-yl}-2-propyn-1-yl methanesulfonate (Description 77) (14 mg, 0.024 mmol) and morpholine (21.14 μl, 0.243 mmol) in THF (221 μl) was stirred at 60° C. for 1 h. The mixture was evaporated to dryness and the residue purified on silica, eluting with a gradient of 0-10% 2M NH3 in MeOH in DCM, to afford the title compound (12 mg). LCMS (A) m/z: 568 [M+1]+, Rt 1.02 min (acidic).

reactant | 3-{4-{[(3-chlorophenyl)sulfonyl]amino}-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-2-yl}-2-propyn-1-yl methanesulfonate | 0.024 mmol, 14 mg | CS(=O)(=O)OCC#CC1=C(C=2C(=NC(=CC2NS(=O)(=O)C2=CC(=CC=C2)Cl)C)S1)C1=CC(=CC=C1)OC | C25H21ClN2O6S3
reactant | morpholine | 0.243 mmol, 21.14 μl | N1CCOCC1 | C4H9NO
solvent | THF | 221 μl | C1CCOC1 | C4H8O
product | 3-Chloro-N-{6-methyl-3-[3-(methyloxy)phenyl]-2-[3-(4-morpholinyl)-1-propyn-1-yl]thieno[2,3-b]pyridin-4-yl}benzenesulfonamide | 12 mg | ClC=1C=C(C=CC1)S(=O)(=O)NC1=C2C(=NC(=C1)C)SC(=C2C2=CC(=CC=C2)OC)C#CCN2CCOCC2 | C28H26ClN3O4S2
